US04533657
B. ZTyr(Bz)D-AlaNHNH2
A solution of hydrazine hydrate (5.05 ml.) in ethanol (45 ml.) was added to a solution of (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-D-alanine methyl ester (15.18 g.) in tetrahydrofuran (135 ml.). The resulting solution was stirred at room temperature and seeded. (N-Benzyloxycarbonyl-O-benzyl-L-tyrosyl)-D-alanyl hydrazide (13.2 g.; m.r. 216°-218° C.; [α]D25 -21.4°, c=2, dimethylformamide) separated from the solution as a crystalline solid.

reactant | hydrazine hydrate | 5.05 ml | O.NN
reactant | (N-benzyloxycarbonyl-O-benzyl-L-tyrosyl)-D-alanine methyl ester | 15.18 g | COC([C@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)C)=O | C28H30N2O6
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | ZTyr(Bz)D-AlaNHNH2 | N([C@@H](CC1=CC=C(C=C1)OC(=O)C1=CC=CC=C1)C(=O)N[C@H](C)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C27H28N4O6
